US08034826B2
A solution of 1,4-dioxa-spiro[4.5]decan-8-one (3.1 g, 20 mmol) and CH2Cl2 (50 mL) was stirred with methylamine (15 mL, 30 mmol, 2.0M solution in THF), sodium cyanoborohydride (1.3 g, 20 mmol), and acetic acid (0.1 mL) at room temperature. After 8 hours, the reaction mixture was washed with water (50 mL) and concentrated. The residue was purified by flash chromatography to afford 1.5 g of (1,4-dioxa-spiro[4.5]dec-8-yl)-methyl-amine as an oil.

reactant | 1,4-dioxa-spiro[4.5]decan-8-one | 20 mmol, 3.1 g | O1CCOC12CCC(CC2)=O | C8H12O3
reactant | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
reactant | methylamine | 30 mmol, 2.0M, 15 mL | CN | CH5N
reactant | sodium cyanoborohydride | 20 mmol, 1.3 g | C(#N)[BH3-].[Na+]
solvent | acetic acid | 0.1 mL | C(C)(=O)O | C2H4O2
product | (1,4-dioxa-spiro[4.5]dec-8-yl)-methyl-amine | 1.5 g | O1CCOC12CCC(CC2)NC | C9H17NO2
